* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
* SPDX-License-Identifier: Apache-2.0


.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
X0 a_35_297# A VGND VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X1 VGND B a_35_297# VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X2 X a_35_297# VGND VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X3 a_285_297# B VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X4 VPWR A a_285_297# VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X5 a_35_297# B a_117_297# VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X6 a_117_297# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X7 a_285_47# B X VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X8 a_285_297# a_35_297# X VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X9 VGND A a_285_47# VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
.ends

* Absorber stubs: write_path_spice's lib_subckt reader (findCellSubckts) treats
* the last token of every device line as a subckt-call name, so a flat
* transistor netlist makes it look for the parameter "l=150000u" and the
* closing ".ends" as if they were cells.  These empty subckts satisfy that
* lookup; only the sky130_fd_sc_hd__xor2_1 subckt above is real.  (Unrelated to
* the arc-sense fix under test.)
.subckt l=150000u
.ends
.subckt .ends
.ends
